US07332508B2
1-(1-Ethylpropyl)-4-{[5-(naphthalen-2-yl)[1,2,4]oxadiazol-3-yl]methyl}piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 12, starting from 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine and 2-naphthoyl chloride.

reactant | 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine | C(C)C(CC)N1CCC(CC1)CC(=N)NO | C12H25N3O
reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 1-(1-Ethylpropyl)-4-{[5-(naphthalen-2-yl)[1,2,4]oxadiazol-3-yl]methyl}piperidine, Hydrochloride | Cl.C(C)C(CC)N1CCC(CC1)CC1=NOC(=N1)C1=CC2=CC=CC=C2C=C1 | InChI=1S/C23H29N3O.ClH/c1-3-21(4-2)26-13-11-17(12-14-26)15-22-24-23(27-25-22)20-10-9-18-7-5-6-8-19(18)16-20;/h5-10,16-17,21H,3-4,11-15H2,1-2H3;1H
